US06720351B2
(a) 5-(2-Acetoxy-benzoylamino)-1-methyl-1H-indole-2-carboxylic acid ethyl ester
To a solution of 5-amino-1-methyl-indole-2-carboxylic acid ethyl ester (12.86 g, 58.92 mM) and diisopropylethylamine (20.5 mL, 117.84 mM) in CH2Cl2 at 0° C. was added a solution of acetyl salicyloyl chloride in CH2Cl2 over 30 minutes. After the addition was complete the cooling bath was removed and the mixture was allowed to warm to room temperature and stirred at that temperature for 2 hours. The mixture was transferred to a separatory funnel and the solution was washed with 1N HCl (150 mL) and aqueous NaHCO3. The organic fraction was dried over MgSO4 and filtered. The solvent was removed under reduced pressure to provide the title compound.

reactant | 5-amino-1-methyl-indole-2-carboxylic acid ethyl ester | 58.92 mM, 12.86 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)N)C | C12H14N2O2
reactant | diisopropylethylamine | 117.84 mM, 20.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl salicyloyl chloride | C(C)(=O)OC=1C(C(=O)Cl)=CC=CC1 | C9H7ClO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-(2-Acetoxy-benzoylamino)-1-methyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)NC(C1=C(C=CC=C1)OC(C)=O)=O)C | C21H20N2O5
